US05516932
Synthesis of ethylhexyl 2,4,5-trifluorocinnamate
3.0 g (14.2 mmol) of 1-bromo-2,4,5-trifluorobenzene are refluxed under protecting gas with 30.0 mmol of 2-ethylhexyl acrylate, 140 mg of palladium on activated charcoal (5% strength), 0.82 g of sodium carbonate and 10 mg of di-tert-butylphenol in 10 ml of dimethylacetamide for 18 hours at 170° C. The catalyst is filtered off, the mixture is diluted with dichloromethane and extracted with water. The crude product is chromatographed.

reactant | 1-bromo-2,4,5-trifluorobenzene | 14.2 mmol, 3.0 g | BrC1=C(C=C(C(=C1)F)F)F | C6H2BrF3
reactant | 2-ethylhexyl acrylate | 30.0 mmol | C(C=C)(=O)OCC(CCCC)CC | C11H20O2
reactant | sodium carbonate | 0.82 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butylphenol | 10 mg | C(C)(C)(C)C=1C(=C(C=CC1)O)C(C)(C)C | C14H22O
catalyst | palladium on activated charcoal | 140 mg | [Pd] | Pd
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | ethylhexyl 2,4,5-trifluorocinnamate | FC1=C(C=CC(=O)OC(CCCCC)CC)C=C(C(=C1)F)F | C17H21F3O2
